US04916149
After dropping 1.46 ml of thionyl chloride to a solution containing 8.2 g of 1-(4'-chloro-3'-sulfamoylbenzoyl)amino-2-methyl-5-carboxybenzimidazole in 50 ml of methanol while stirring, the reaction mixture was refluxed for 5 hours. The clear solution obtained was evaporated to dryness under reduced pressure and the solid residue was triturated with 1N sodium bicarbonate solution. After decanting the solution from the solid product, the residue was recrystallized from a mixture of dioxane and water (1:1). Thus, 6.35 g (75%) of 1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-methoxycarbonyl-2-methylbenzimidazole were obtained, m.p.: 251°-252° C. (with decomposition).

reactant | thionyl chloride | 1.46 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(4'-chloro-3'-sulfamoylbenzoyl)amino-2-methyl-5-carboxybenzimidazole | 8.2 g | ClC1=C(C=C(C(=O)NN2C(=NC3=C2C=CC(=C3)C(=O)O)C)C=C1)S(N)(=O)=O | C16H13ClN4O5S
reactant | methanol | 50 ml | CO | CH4O
product | 1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-methoxycarbonyl-2-methylbenzimidazole | 6.35 g, 75% | ClC1=C(C=C(C(=O)NN2C(=NC3=C2C=CC(=C3)C(=O)OC)C)C=C1)S(N)(=O)=O | C17H15ClN4O5S
